US04252809
Preparation of 2,4,7-triamino-6-(p-acetoxyphenyl)-pteridine
410 mg of metallic sodium are dissolved with stirring in 100 ml of 2-ethoxy-ethanol. 1100 mg of 2,4,6-triaminonitroso-pyrimidine and 1140 mg of p-acetoxybenzyl-cyanide are added with stirring one after the other and the mixture is heated to the boiling point with stirring. The color of the mixture changes from violet to brown. After two hours' boiling under reflux, heating is discontinued and the reaction mixture is left to cool. Subsequently, 70 to 80 percent of the 2-ethoxy-ethanol are drawn off using the vacuum from a water aspirator and the residue is combined with 500 ml of water. After extraction four times with ether, the extract is adjusted to pH 5 with 2 N hydrochloric acid. The precipitate is filtered off, washed with a little ice-cold acetone and recrystallized from 10 percent acetic acid. Further purification can follow using a silica gel column. The compound mentioned in the title is obtained, which compound decomposes (with charring) at 319°-321° C.

reactant | sodium | 410 mg | [Na] | Na
reactant | 2,4,6-triaminonitroso-pyrimidine | 1100 mg | NC1=NC(=C(C(=N1)N)N=O)N | C4H6N6O
reactant | p-acetoxybenzyl-cyanide | 1140 mg | C(C)(=O)OC1=CC=C(CC#N)C=C1 | C10H9NO2
reactant | water | O | H2O
reactant | water | 500 ml | O | H2O
solvent | 2-ethoxy-ethanol | 100 ml | C(C)OCCO | C4H10O2
product | 2,4,7-triamino-6-(p-acetoxyphenyl)-pteridine | NC1=NC2=NC(=C(N=C2C(=N1)N)C1=CC=C(C=C1)OC(C)=O)N | C14H13N7O2
